US05734065
1,2-Bis(5-bromo-2-methyl-3-thienyl)hexafluorocyclopentene (1.0 g 0.002 mol) was dissolved in dimethoxyethane (50 ml), and palladium tetra(triphenylphosphine) (120 mg) was added to the mixture which was stirred for 5 minutes under argon atmosphere. With 4-methyl-2-thienyl boric acid (852 mg, 0.006 mol) and an aqueous solution of potassium carbonate (0.1 mol dm-3, 10 ml) were added, the reaction mixture was refluxed for two hours. It was then concentrated under reduced pressures, extracted with diethylether and rinsed with water. With the diethylether removed under reduced pressures, the product was purified by alumina column chromatogram to give 1,2-bis[2-methyl-5-(4-methyl-2-thienyl)-3-thienyl]hexafluorocyclopentene (447 mg, 0.0008 mol).

reactant | 1,2-Bis(5-bromo-2-methyl-3-thienyl)hexafluorocyclopentene | 0.002 mol, 1.0 g | BrC1=CC(=C(S1)C)C1=C(C(C(C1(F)F)(F)F)(F)F)C1=C(SC(=C1)Br)C | C15H8Br2F6S2
reactant | 4-methyl-2-thienyl boric acid | 0.006 mol, 852 mg | CC=1C=C(SC1)OB(O)O | C5H7BO3S
reactant | potassium carbonate | 0.1 mol dm-3, 10 ml | C([O-])([O-])=O.[K+].[K+]
reactant | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
catalyst | palladium tetra(triphenylphosphine) | 120 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 1,2-bis[2-methyl-5-(4-methyl-2-thienyl)-3-thienyl]hexafluorocyclopentene | 0.0008 mol, 447 mg | CC=1SC(=CC1C1=C(C(C(C1(F)F)(F)F)(F)F)C1=C(SC(=C1)C=1SC=C(C1)C)C)C=1SC=C(C1)C | C25H18F6S4
